US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-3-methylxanthine
To a solution of 3-methylxanthine (1.06 g) in DMF (26 ml) were added potassium carbonate (1.06 g) and 4-(4-chlorobenzoyl)benzyl bromide (1.98 g) and the mixture was stirred at room temperature for 24 hours. To this reaction mixture were added water and ethyl acetate and the floating matter was filtered off and the filtrate aqueous solution was diluted with 1N-hydrochloric acid and extracted with chloroform. The extract was washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate. The solvent was then distilled off and the residue was washed with ethyl acetate to provide the title compound as colorless powder (239 mg, 10%). 1H-NMR (CDC13) 8: 3.54(3H,s), 3.57(3H,s), 7.41-7.52(4H,m), 7.68-7.81(5H,m).

reactant | 3-methylxanthine | 1.06 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | potassium carbonate | 1.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 1.98 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
reactant | water | O | H2O
solvent | DMF | 26 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[4-(4-Chlorobenzoyl)benzyl]-3-methylxanthine | 239 mg, 10% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(NC(C34)=O)=O)C)C=C2)C=C1 | C20H15ClN4O3
